US06897319B2
A solution 2.2 g of (4-chloro-phenyl)-{4-[hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-1-methyl-1H-pyrrol-2-yl}methanone in 50 mL of CH2Cl2 was stirred with 2.5 g of activated manganese dioxide overnight. The reaction was filtered and the filtrate was evaporated in vacuo to give 2.0 g of (4-chlorophenyl)-[1-methyl-4-(1-trityl-1H-imidazole-4-carbonyl)-1H-pyrrol-2yl]methanone. CI-MS m/z=556 (M++H).

reactant | (4-chloro-phenyl)-{4-[hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-1-methyl-1H-pyrrol-2-yl}methanone | 2.2 g | ClC1=CC=C(C=C1)C(=O)C=1N(C=C(C1)C(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C | C35H28ClN3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 2.5 g | [O-2].[O-2].[Mn+4]
product | (4-chlorophenyl)-[1-methyl-4-(1-trityl-1H-imidazole-4-carbonyl)-1H-pyrrol-2yl]methanone | 2.0 g | ClC1=CC=C(C=C1)C(=O)C=1N(C=C(C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C35H26ClN3O2
